US06495336B1
1c: Boc-(D)-Chg-Gly-OH
8.1 g (31.5 mmol) of Boc-(D)-Chg-OH were dissolved in 100 ml of 1,2-dimethoxyethane and then, at 0° C., NHS (3.7 g, 32.0 mmol) and DCC (7.0 g, 34.0 mmol) were added. After 6 h at RT, DCH was filtered off, and a solution of 2.3 g (31.0 mml) of glycine and 2.6 g (31.0 mmol) of NaHCO3 in 350 ml of water was added to the filtrate. Stirring at RT for 24 h was followed by concentration and extraction with 5% citric acid/ethyl acetate. Concentration of the organic phase resulted in 8.2 g (85.0%) of product.

reactant | Boc-(D)-Chg-OH | 31.5 mmol, 8.1 g | N([C@H](C1CCCCC1)C(=O)O)C(=O)OC(C)(C)C | C13H23NO4
reactant | DCC | 34.0 mmol, 7.0 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | glycine | 2.3 g | NCC(=O)O | C2H5NO2
reactant | NaHCO3 | 31.0 mmol, 2.6 g | C(=O)(O)[O-].[Na+]
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | water | 350 ml | O | H2O
product | Boc-(D)-Chg-Gly-OH | 8.2 g, 85.0% | N([C@H](C1CCCCC1)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C15H26N2O5
